US05659059
3.0 g (20 mmol) of n-pentyl bromide was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 7.8 g (20 mmol) of 4'-(4-chloro-4-silacyclohexyl)-3,5-difluoro-4-difluoromethoxybiphenyl to obtain 4'-(trans-4-n-pentyl-4-silacyclohexyl)-3,5-difluoro-4-difluoromethoxybiphenyl. The silacyclohexane rings of this product were a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 6.6 g of the trans isomer (yield 82%).

reactant | n-pentyl bromide | 20 mmol, 3.0 g | C(CCCC)Br | C5H11Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-(4-chloro-4-silacyclohexyl)-3,5-difluoro-4-difluoromethoxybiphenyl | 20 mmol, 7.8 g | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)OC(F)F)F | C18H17ClF4OSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4'-(trans-4-n-pentyl-4-silacyclohexyl)-3,5-difluoro-4-difluoromethoxybiphenyl | yield 82% | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)OC(F)F)F | C23H28F4OSi
